US05910498
7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)-1,8-naphthyridine-3-carboxylic acid
To 10 ml of conc. sulfuric acid was added 890 mg of 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluorophenyl)-1,8-naphthyridine-3-carboxylic acid. Potassium nitrate (730 mg) was added in portions to the solution, which was stirred at room temperature for 2 days. The reaction solution was allowed to cool, poured into ice water, and stirred overnight. The precipitated solid was collected by filtration, washed with water, ethanol and diethyl ether to give 860 mg of the title compound.

reactant | 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluorophenyl)-1,8-naphthyridine-3-carboxylic acid | 890 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C(=C(C=C1)F)F)F)C(=O)O)=O)F | C15H5ClF4N2O3
reactant | Potassium nitrate | 730 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)-1,8-naphthyridine-3-carboxylic acid | 860 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C(=C(C(=C1)[N+](=O)[O-])F)F)F)C(=O)O)=O)F | C15H4ClF4N3O5
